US07456164B2
N-[(4-{4-[(1-isopropyl piperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-yl)methyl]pyridin-2-amine
(4-{4-[(1-Isopropylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-yl)methylamine (300 mg, 0.9 mmol), 2-bromopyridine (50 μL, 0.75 mmol), tris(dibenzylideneacetone)dipalladium(0) (15 mg, 0.018 mmol), 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (19 mg, 0.036 mmol) and sodium tert-butoxide (100 mg, 1 mmol) were heated at 70° C. in toluene (6 ml) for 24 hours under nitrogen. The reaction was partitioned between aqueous sodium bicarbonate (302 ml) and dichloromethane (2×75 ml). The organics were combined, dried over sodium sulphate, filtered and concentrated under reduced pressure. The crude product was purified by flash chromatography on silica gel eluting with dichloromethane:methanol:ammonia (96:4:0.4, to 94:6:0.6 by volume) to provide the title compound (81 mg, 22%) as a white solid after trituration in diethyl ether. 1H NMR (400 MHz, CDCl3) δ 1.11 (d, 6H), 1.86-1.95 (m, 4H), 2.07-2.16 (m, 4H), 2.46-2.51 (m, 2H), 2.82-2.86 (m, 3H), 3.49 (d, 2H), 3.56-3.61 (m, 2H), 3.80-3.85 (m, 2H), 4.03 (m, 1H), 4.33 (m, 1H), 6.22 (d, 1H), 6.51 (t, 1H), 6.91 (d, 2H), 7.24 (d, 2H), 7.32 (t, 1H), 8.01 (d, 1H). HRMS ESI+ m/z 410.2793 [MH]+.

reactant | (4-{4-[(1-Isopropylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-yl)methylamine | 0.9 mmol, 300 mg | C(C)(C)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)CN | C20H32N2O2
reactant | 2-bromopyridine | 0.75 mmol, 50 μL | BrC1=NC=CC=C1 | C5H4BrN
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.036 mmol, 19 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | 1 mmol, 100 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.018 mmol, 15 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-[(4-{4-[(1-isopropyl piperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-yl)methyl]pyridin-2-amine | 81 mg, 22% | C(C)(C)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)CNC1=NC=CC=C1 | C25H35N3O2
